US06706725B1
a) 1-(4-Bromo-2-thienyl)-1-propanol
30 g (157 mmol) of 4-bromo-2-thiophenecarboxaldehyde are dissolved in 200 mL of anhydrous THF. 104 mL (312 mmol) of 3.0 M ethylmagnesium bromide are added slowly and the medium is stirred for 2 hours at room temperature. After the usual treatment, an orange-coloured oil is obtained (m=33.5 g; Y=96%).

reactant | 4-bromo-2-thiophenecarboxaldehyde | 157 mmol, 30 g | BrC=1C=C(SC1)C=O | C5H3BrOS
reactant | ethylmagnesium bromide | 312 mmol, 3.0 M, 104 mL | C(C)[Mg]Br
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 1-(4-Bromo-2-thienyl)-1-propanol | BrC=1C=C(SC1)C(CC)O | C7H9BrOS
